US05026856
3.03 g of 2-ethoxycarbonyl-4-hydroxymethylisoindoline and 2.91 g of potassium hydroxide were dissolved in a mixture of 25 ml isopropyl alcohol and 2.5 ml of water. The mixture was heated under refluxing for 3 days. After the addition of water, the resulting reaction mixture was extracted with chloroform. The extract was washed with brine, concentrated, and recrystallized from carbontetrachloride to give 1.48 g of 4-hydroxymethylisoindoline.

reactant | 2-ethoxycarbonyl-4-hydroxymethylisoindoline | 3.03 g | C(C)OC(=O)N1CC2=CC=CC(=C2C1)CO | C12H15NO3
reactant | potassium hydroxide | 2.91 g | [OH-].[K+]
solvent | isopropyl alcohol | 25 ml | C(C)(C)O | C3H8O
solvent | water | 2.5 ml | O | H2O
product | 4-hydroxymethylisoindoline | 1.48 g | OCC1=C2CNCC2=CC=C1 | C9H11NO
